US06620438B2
6 g of 2-hydroxyethyl-3-hydroxypropylamine and 18.9 g of 1-benzyl-4-piperidone are taken up in 250 ml methylene chloride and at 0° C. combined with 21.2 g of sodium triacetoxyborohydride. The mixture is stirred overnight at ambient temperature, then acidified with 2 N hydrochloric acid and made alkaline with concentrated sodium hydroxide solution. It is extracted with methylene chloride, the extract is dried over sodium sulphate and the solvent is eliminated in vacuo. The residue is chromatographed over silica gel with ethyl acetate/methanol/conc. ammonia solution 20:80:1. The uniform fractions according to TLC are combined and freed from solvent in vacuo. 2.3 g of 1-benzyl-4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidine are obtained as an oil.

reactant | 2-hydroxyethyl-3-hydroxypropylamine | 6 g | OCCNCCCO | C5H13NO2
reactant | 1-benzyl-4-piperidone | 18.9 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium triacetoxyborohydride | 21.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyl-4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidine | 2.3 g | C(C1=CC=CC=C1)N1CCC(CC1)N(CCCO)CCO | C17H28N2O2
